US05530018
4-(Acetylamino)-5-chloro-N-(hexahydro-2,6-methano-1H-pyrrolizin-8-ylmethyl)-2-methoxybenzamide, hydrochloride
4-Acetylamino-5-chloro-2-methoxybenzoic acid (235 mg, 0.965 mmol) and CDI (156 mg, 0.965 mmol) were dissolved in 5 ml of DMF and stirred for 0.5 hour. A solution of the amines of Example D (147 mg, 0.956 mmol) in 1 ml DMF was then added to the above solution. This mixture was stirred for 10 hours and concentrated to dryness. The residue was dissolved in CHCl3, washed successively with water and 10% K2CO3 and then dried over K2CO3, filtered and concentrated to dryness. The resulting solid was chromatographed with silica gel eluting with 15% MeOH (NH3)/CHCl3 to give a 51% (anti)/49%(syn) epimeric mixture of the title compound (196 mg, 54%). Conversion to the hydrochloride salt was accomplished by treatment with methanolic HCl.

reactant | 4-Acetylamino-5-chloro-2-methoxybenzoic acid | 0.965 mmol, 235 mg | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
reactant | CDI | 0.965 mmol, 156 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-(Acetylamino)-5-chloro-N-(hexahydro-2,6-methano-1H-pyrrolizin-8-ylmethyl)-2-methoxybenzamide, hydrochloride | 196 mg, 54% | Cl.C(C)(=O)NC1=CC(=C(C(=O)NCC2C3CC4CC2CN4C3)C=C1Cl)OC | InChI=1S/C19H24ClN3O3.ClH/c1-10(24)22-17-6-18(26-2)14(5-16(17)20)19(25)21-7-15-11-3-13-4-12(15)9-23(13)8-11;/h5-6,11-13,15H,3-4,7-9H2,1-2H3,(H,21,25)(H,22,24);1H
